US04931083
1-(3-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole
A 2.2 g portion of sodium was dissolved in 75 ml of methanol and the solution was added to 100 ml of dimethylsulfoxide. To that was added 19.2 g of 1-(3-chlorophenyl)-3-hydroxy-1,2,4-1H-triazole, and the mixture was stirred on the steam bath for 4 hours. To it was then added 17.7 g of ethyl 2-bromopropionate, and heating was continued for 2 hours more. The mixture was then cooled and poured over ice-water, and the solid was collected, dried and recrystallized from ethanol and then from toluene to obtain 8.5 g of the desired product, m.p. 70°-72°.

reactant | sodium | [Na] | Na
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | 1-(3-chlorophenyl)-3-hydroxy-1,2,4-1H-triazole | 19.2 g | ClC=1C=C(C=CC1)N1N=C(N=C1)O | C8H6ClN3O
reactant | ethyl 2-bromopropionate | 17.7 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | methanol | 75 ml | CO | CH4O
product | 1-(3-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole | 8.5 g | ClC=1C=C(C=CC1)N1N=C(N=C1)OC(C)C(=O)OCC | C13H14ClN3O3
